US07632851B2
5Benzo[1,2,5]oxadiazol-5-yl-N-(2-fluoro-ethyl)-nicotinamide
Starting from 5-bromo-benzo[1,2,5]oxadiazole and 5-bromo-N-(2-fluoro-ethyl)-nicotinamide. Beige powder. MS(ES−): 285 (M−1).

reactant | 5-bromo-benzo[1,2,5]oxadiazole | BrC=1C=CC=2C(=NON2)C1 | C6H3BrN2O
reactant | 5-bromo-N-(2-fluoro-ethyl)-nicotinamide | BrC=1C=NC=C(C(=O)NCCF)C1 | C8H8BrFN2O
product | 5Benzo[1,2,5]oxadiazol-5-yl-N-(2-fluoro-ethyl)-nicotinamide | N1=C2C(=NO1)C=C(C=C2)C=2C=NC=C(C(=O)NCCF)C2 | C14H11FN4O2
